iuss_projekt
*** Deklaracja biblioteki ***
.lib tsmc180_t77a_spice.lib

*** M<nazwa> <dren> <bramka> <źródło> <podłoże> <model> ***

*** bramka ***
M1 A in1 Vdd Vdd PFET W=0.6u L=0.2u
M2 A in1 Vss Vss NFET W=0.4u L=0.2u
M3 B in2 Vdd Vdd PFET W=0.6u L=0.2u
M4 B in2 Vss Vss NFET W=0.4u L=0.2u
M5 D A Vss Vss NFET W=0.4u L=0.2u
M6 E A Vdd Vdd PFET W=1.2u L=0.2u
M7 D B E Vdd PFET W=1.2u L=0.2u
M8 D B Vss Vss NFET W=0.4u L=0.2u
M9 logic_out D Vdd Vdd PFET W=0.6u L=0.2u
M10 logic_out D Vss Vss NFET W=0.4u L=0.2u

*** Bufor cyfrowy  ***
M11 buf1 logic_out Vdd Vdd PFET W=1.8u L=0.2u
M12 buf1 logic_out Vss Vss NFET W=1.2u L=0.2u

M13 buf2 buf1 Vdd Vdd PFET W=5.4u L=0.2u
M14 buf2 buf1 Vss Vss NFET W=3.6u L=0.2u

M15 buf3 buf2 Vdd Vdd PFET W=16.2u L=0.2u
M16 buf3 buf2 Vss Vss NFET W=10.8u L=0.2u

M17 buf4 buf3 Vdd Vdd PFET W=48.6u L=0.2u
M18 buf4 buf3 Vss Vss NFET W=32.4u L=0.2u

M19 buf5 buf4 Vdd Vdd PFET W=145.8u L=0.2u
M20 buf5 buf4 Vss Vss NFET W=97.2u L=0.2u

M21 out buf5 Vdd Vdd PFET W=437.4u L=0.2u
M22 out buf5 Vss Vss NFET W=291.6u L=0.2u



*** Zrodla zasilania ***
Vdd Vdd 0 DC 1.8V
Vss Vss 0 DC 0

*** Sygnaly wejsciowe ***
Vin1 in1 0 DC 1.8V
Vin2 in2 0 DC 1.8V
;.op

*** czas narastania sygnalu ***
;Vsqr in1 0 PULSE(0 1.8V 1n 10p 10p 10n 20n)
;Vin2 in2 0 DC 1.8V
;.tran 30n

*** napiecie przelaczania ***
.dc Vin2 0 1.8 10m

*** test wydajnosci pradowej ***
;Rload out Vss{RTEST}
;.param RTEST = {Vdd/15m}
;.param Vdd=1.8

;.temp -30 27 125
;.dc Vdd 1.62 1.98 0.18

*** test maksymalnej czestotliwosci ***
;Vin1 in1 0 DC 1.62
;.param vdd=1.62 fsqr=458e+6 tsqr={1/fsqr}
;Vsqr sqr vss DC 0 PULSE(0 {vdd} {tsqr/2} 0.1ns 0.1ns {tsqr/2} {tsqr})
;R1 sqr in2 50
;CL out vss 25p
;.TRAN 2ns 20ns





.end





